US08729078B2
To the solution of 2,2,2-trichloro-1-(1-methyl-1H-imidazol-2-yl)ethanone (1.5 g, 6.6 mmol) in 26 mL of anhydrous THF was added 2.35 g of NBS at −10° C. The resulting mixture was stirred at −10° C. for 2 h, then 25° C. for 16 h. The solution was evaporated and the residue was purified by silica gel column (DCM as eluent) to give 1-(-4-bromo-1-methyl-1H-imidazol-2-yl)-2,2,2-trichloroethanone (1.18 g, yield 58%). 1H NMR (300 MHz, CDCl3) δ 7.15 (s, 1H), 4.05 (s, 3H).

reactant | 2,2,2-trichloro-1-(1-methyl-1H-imidazol-2-yl)ethanone | 6.6 mmol, 1.5 g | ClC(C(=O)C=1N(C=CN1)C)(Cl)Cl | C6H5Cl3N2O
reactant | NBS | 2.35 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF | 26 mL | C1CCOC1 | C4H8O
product | 1-(-4-bromo-1-methyl-1H-imidazol-2-yl)-2,2,2-trichloroethanone | 1.18 g, yield 58% | BrC=1N=C(N(C1)C)C(C(Cl)(Cl)Cl)=O | C6H4BrCl3N2O
